US05110815
5,6,7,8-Tetrahydro-5-[(2-phenylethyl)amino]-1-(2-propenyl)-2(1H)-quinolinone
A mixture of phenethylamine (6.1 g), 5,6,7,8-tetrahydro-5-oxo-1-(2-propenyl)-2(1H)-quinolinone (10.0 g), and a catalytic amount of para-toluenesulfonic acid was heated in refluxing toluene (150 ml), with azeotropic removal of water, for 18 hrs. The solution was cooled and washed with water. The aqueous phase was extracted with dichloromethane, and the combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. Sodium borohydride (1.8 g) was added to the residue in ethyl alcohol (150 ml) and the resulting mixture was stirred at room temperature for 0.5 hr. The mixture was concentrated in vacuo, and the residue was quenched with water. The mixture was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was purified by high performance liquid chromatography (silica gel, eluted with methanol/ethyl acetate) to afford 13.6 g (89%) of product. Recrystallization from diethyl ether/petroleum ether provided the analytical sample, mp 60°-62° C.

reactant | phenethylamine | 6.1 g | C(CC1=CC=CC=C1)N | C8H11N
reactant | 5,6,7,8-tetrahydro-5-oxo-1-(2-propenyl)-2(1H)-quinolinone | 10.0 g | O=C1C=2C=CC(N(C2CCC1)CC=C)=O | C12H13NO2
reactant | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6,7,8-Tetrahydro-5-[(2-phenylethyl)amino]-1-(2-propenyl)-2(1H)-quinolinone | 13.6 g, 89% | C1(=CC=CC=C1)CCNC1C=2C=CC(N(C2CCC1)CC=C)=O | C20H24N2O
